US06372736B1
(2S)-1-(1,3-Benzothiazol-2-yl)-2-piperidinecarboxylic acid
The title compound was prepared by a similar method to Preparation 3 from ethyl (2S)-1-(1,3-benzothiazol-2-yl)-2-piperidinecarboxylate [see Preparation 42] and 1N aqueous lithium hydroxide solution. The crude product was purified by column chromatography on silica gel eluting with a solvent system of 10:1, by volume, dichloromethane: methanol to afford (2S)-1-(1,3-benzothiazol-2-yl)-2-piperidinecarboxylic acid as a solid.

reactant | ethyl (2S)-1-(1,3-benzothiazol-2-yl)-2-piperidinecarboxylate | S1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)OCC | C15H18N2O2S
reactant | lithium hydroxide | 1N | [OH-].[Li+]
product | (2S)-1-(1,3-benzothiazol-2-yl)-2-piperidinecarboxylic acid | S1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)O | C13H14N2O2S
